Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:12].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10][H:11]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],-5.19525861499
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13].[H:4],1.92007750506
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13],-2.65264205935
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.66001814665
[H:12].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[O:13][H:14]>>[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.26473207635
[C:10]([H:11])([H:12])[H:13].[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[C:1]#[C:2][C@@:3]([H:4])([O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.55807294718
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-6.438430096
[C:5]([H:6])[H:7].[H:1][C:2]([O:3][C:4][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-7.17352647478
[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],-8.574502204489999
[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-4.0938718859900005
[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.14303235609
[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3][C:4]#[C:5].[H:6],5.79849132696
[H:1][O:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[C:5](=[C:6]([H:7])[H:8])([H:11])[H:12].[H:1][O:2]/[C:3]([H:4])=[C:10]/[C:13]([H:9])([H:14])[H:15],1.7396823193400002
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:10].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],4.97073773386
[H:14].[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[O:9][H:10])[C:11]([H:12])([H:13])[H:14],-4.53977704122
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]#[C:7][H:8]>>[C:4][O:5][C:6]#[C:7][H:8].[O:1]=[C:2][H:3],2.68181904546
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],5.16366347661
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](#[C:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1],1.82273063951
[O:1]=[C:2]([H:3])[C:4]1[O:5][C:6]([H:7])[C:8]1([H:9])[H:10]>>[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],0.617387082681
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],2.00016212776
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],-1.06723822756
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][H:4].[O:5][C:6]([H:7])([H:8])[O:9][H:10],0.96345384578
[H:1][C:2]([H:3])[C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[H:1][C:2][C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:3],5.04092600166
[H:1][C:2]#[C:3][C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-1.66218479953
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:3],5.11651939244
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[O:4][C:5][H:6],5.467263572409999
[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.83708326245
[H:1][O:2][C:3][O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[O:4],1.58368901782
